US05166155
Under a nitrogen atmosphere 6-bromoquinoxalin-2(1H)-one (2.03 g, 9 mmol) (J.Med.Chem., 24, (1981), 93) was dissolved in 22 ml of dry DMF and sodium hydride (0.44 g, 10.8 mmol (60% mineral oil dispersion)) was added. After stirring for 2 h, ethyl bromoacetate (1.25 ml, 11.3 mmol) was added and the mixture was stirred for 3.5 h. The reaction mixture was poured onto crushed ice and acidified (pH=4.5) by addition of dilute hydrochloric acid. The precipitate was filtered off, washed with water and air dried. The crude product (containing a minor fraction of O-alkylated product) was triturated with ether (100 ml), the precipitate filtered off, washed with ether and dried to afford 1.95 g (80%) of pure 6-bromo-1-ethoxycarbonylmethylquinoxalin-2(1H)-one. 1H-NMR (DMSO-d6):δ1.22 (t, 3H), 4.17 (q, 2H), 5.08 (s, 2H), 7.56 (d, 1H), 7.83 (dd, 1H), 8.09 (dd, 1H), 8.37 (s, 1H).

reactant | 6-bromoquinoxalin-2(1H)-one | 9 mmol, 2.03 g | BrC=1C=C2N=CC(NC2=CC1)=O | C8H5BrN2O
reactant | sodium hydride | 10.8 mmol, 0.44 g | [H-].[Na+]
reactant | ethyl bromoacetate | 11.3 mmol, 1.25 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 22 ml | CN(C)C=O | C3H7NO
product | 6-bromo-1-ethoxycarbonylmethylquinoxalin-2(1H)-one | 1.95 g, 80% | BrC=1C=C2N=CC(N(C2=CC1)CC(=O)OCC)=O | C12H11BrN2O3
